US07498337B2
ethyl 5-phenyl-1-(pyridazin-3-ylsulfonyl)-1H-pyrrole-3-carboxylate
Ethyl 5-phenyl-1H-pyrrole-3-carboxylate (1.06 g) was dissolved in tetrahydrofuran (30 mL), sodium hydride (60% in oil, 300 mg) was added and the mixture was stirred at room temperature for 15 min. 15-Crown-5 (1.52 mL) was added and the mixture was further stirred at the same temperature for 15 min. 6-Chloropyridazine-3-sulfonyl fluoride (1.28 g) was added and the reaction mixture was stirred at room temperature for 30 min. Hydrazine (1.60 g) was added and the reaction mixture was stirred at room temperature for 15 min. Saturated aqueous sodium hydrogencarbonate solution was added, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was dissolved in tetrahydrofuran (30 mL), manganese dioxide (75% chemically treated product, 5.0 g) was added, and the mixture was stirred at room temperature for 10 min. The reaction mixture was filtered through celite, and celite was washed with ethyl acetate. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=19:1→1:1) to give the title compound (yield 613 mg, yield 24% (containing impurity)).

reactant | Ethyl 5-phenyl-1H-pyrrole-3-carboxylate | 1.06 g | C1(=CC=CC=C1)C1=CC(=CN1)C(=O)OCC | C13H13NO2
reactant | sodium hydride | 300 mg | [H-].[Na+]
reactant | 15-Crown-5 | 1.52 mL | C1COCCOCCOCCOCCO1 | C10H20O5
reactant | 6-Chloropyridazine-3-sulfonyl fluoride | 1.28 g | ClC1=CC=C(N=N1)S(=O)(=O)F | C4H2ClFN2O2S
reactant | Hydrazine | 1.60 g | NN | H4N2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | ethyl 5-phenyl-1-(pyridazin-3-ylsulfonyl)-1H-pyrrole-3-carboxylate | yield 613 mg, yield 24% | C1(=CC=CC=C1)C1=CC(=CN1S(=O)(=O)C=1N=NC=CC1)C(=O)OCC | C17H15N3O4S
